US06846828B2
Ethyl diethoxyacetate (10.4 mL, 60.0 mmol) and EtOAc (9.0 mL, 90 mmol) were heated at 85° C. and then treated with sodium metal (1.44 g, 60 mmol) in small pieces. After 2 h of heating, an additional portion of EtOAc was added (9.0 mL, 90 mmol) followed by an additional portion of sodium metal (1.44 g, 60 mmol), and heating was maintained for an additional 3 h. The reaction was then cooled to room temperature and stirred overnight. The reaction was then poured onto water, acidified with 1 N HCl, and extracted with diethyl ether (3×). The organics were washed with saturated NaHCO3 (3×) and saturated NaCl, dried over MgSO4, and concentrated in vacuo. The crude product was dried under vacuum (0.5 mm Hg) while being heated in an oil bath at 80° C. to remove any ethyl acetoacetate that may have been produced. To a solution of the crude keto ester and thiourea (4.57 g, 60 mmol) in EtOH (45 mL), was added 25% NaOMe (13 mL, 57 mmol, Aldrich) and heated at reflux for 4 h. The reaction was cooled for 10 minutes, diluted with water (50 mL), treated with benzyl bromide (9.4 g, 55 mmol), and then stirred warm. Crystals formed after 5 minutes, and the reaction was allowed to cool to room temperature and sit undisturbed for 1 h. The white solid was diluted with water and filtered to give 2-benzylsulfanyl-6-diethoxymethyl-pyrimidin-4-ol (9.5 g, 29.6 mmol, 50%).

reactant | Ethyl diethoxyacetate | 60.0 mmol, 10.4 mL | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | sodium | 60 mmol, 1.44 g | [Na] | Na
reactant | sodium | 60 mmol, 1.44 g | [Na] | Na
reactant | HCl | 1 N | Cl | ClH
reactant | thiourea | 60 mmol, 4.57 g | NC(=S)N | CH4N2S
reactant | NaOMe | 57 mmol, 13 mL | C[O-].[Na+]
reactant | benzyl bromide | 55 mmol, 9.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | EtOH | 45 mL | CCO | C2H6O
solvent | water | 50 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 90 mmol, 9.0 mL | CCOC(=O)C | C4H8O2
product | 2-benzylsulfanyl-6-diethoxymethyl-pyrimidin-4-ol | 29.6 mmol, 9.5 g, 50% | C(C1=CC=CC=C1)SC1=NC(=CC(=N1)O)C(OCC)OCC | C16H20N2O3S
